US08648200B2
Ethyl 5-(aminomethyl)-2-(difluoromethyl)pyridine-3-carboxylate hydrochloride
Purge a mixture of methyl 5-cyano-2-(difluoromethyl)pyridine-3-carboxylate (160 g, 707.4 mmol) and EtOH (2 L) with nitrogen and stir 15 min. Add hydrochloric acid (37 wt % aqueous, 273 mL, 3183.2 mmol, 4.5 equiv) and palladium (5% on carbon, 48 g, 22.5 mmol, 0.031 equiv) in EtOH (100 mL), and stir the resulting suspension under 60 psi of hydrogen at room temperature for 70 min. Remove the solids by filtration over diatomaceous earth; wash the solid cake with EtOH (1 L); and concentrate the filtrate under reduced pressure. Repeat this procedure twice; combine the solids; and slurry in Et2O:DCM [10:1, 5.5 L]. Filter the solids and dry the resulting material at 45° C. for 3 hours to give the title compound as a light brown solid (714 g, 96% yield). MS (m/z) 216 (M+1).

reactant | methyl 5-cyano-2-(difluoromethyl)pyridine-3-carboxylate | 707.4 mmol, 160 g | C(#N)C=1C=C(C(=NC1)C(F)F)C(=O)OC | C9H6F2N2O2
reactant | hydrochloric acid | 3183.2 mmol, 273 mL, 4.5 equiv | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | EtOH | 100 mL | CCO | C2H6O
reactant | EtOH | 2 L | CCO | C2H6O
catalyst | palladium | 22.5 mmol, 48 g, 0.031 equiv | [Pd] | Pd
product | Ethyl 5-(aminomethyl)-2-(difluoromethyl)pyridine-3-carboxylate hydrochloride | 714 g, 96% yield | Cl.NCC=1C=C(C(=NC1)C(F)F)C(=O)OCC | InChI=1S/C10H12F2N2O2.ClH/c1-2-16-10(15)7-3-6(4-13)5-14-8(7)9(11)12;/h3,5,9H,2,4,13H2,1H3;1H
